US04988695
(c) 3 -(2-Chloroethyl)-4-chloro-8-methylcinnoline.
3-(2-Chloroethyl)-8-methyl-4-oxo-(1H)-cinnoline (9 g, 0.04 mol) and phosphorus oxychloride (100 ml) were heated under reflux for 2 hours. The excess phosphorus oxychloride was evaporated under reduced pressure and the residue was poured onto ice, basified with concentrated ammonia solution and extracted with chloroform (3×200 ml). The chloroform extracts were combined, dried over magnesium sulphate, filtered and evaporated under reduced pressure to give a dark brown solid. Recrystallization from diethyl ether/petroleum ether (b.p. 40-60°) gave an analytically pure sample, m.p. 102-104°

reactant | 3-(2-Chloroethyl)-8-methyl-4-oxo-(1H)-cinnoline | 0.04 mol, 9 g | ClCCC1=NNC2=C(C=CC=C2C1=O)C | C11H11ClN2O
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3 -(2-Chloroethyl)-4-chloro-8-methylcinnoline | ClCCC=1N=NC2=C(C=CC=C2C1Cl)C | C11H10Cl2N2
